US08466282B2
Tert-butyl (3R,5S)-3-(1-hydroxyethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate
To a solution of tert-butyl (3R,5S)-3-formyl-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (150 mg) in THF (10 ml) was added 3M-methyl magnesium bromide-ether solution (0.3 ml), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:1-1:0) was concentrated under reduced pressure to give the object product (100 mg).

reactant | tert-butyl (3R,5S)-3-formyl-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 150 mg | C(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C28H42N4O5
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | Tert-butyl (3R,5S)-3-(1-hydroxyethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 100 mg | OC(C)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C29H46N4O5
